US08217168B2
Preparation 2: 6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (P2)
To a solution of 2-acetyl-6-methyl-1,2,4-triazine-3,5(2H,4H)-dione (P1, 196 mg, 1.159 mmol) in 1,4-Dioxane (2 mL) and dry pyridine (0.281 mL, 3.48 mmol) at 5° C. was treated benzoyl chloride (0.155 mL, 1.333 mmol) was added dropwise, then the mixture was stirred at room temperature overnight. The day after 0.1 eq of Benzoyl chloride were added and the mixture stirred at rt for further 4 hours. The reaction mixture was then filtered to remove the piridinium salt and the solvents evaporated under vacuum. The residue was dissolved in EtOH (5 mL), then HCl 37% (126 μL) was added and the reaction was refluxed for 15 minutes. Solvent was evaporated under reduced pressure and the residue was purified by flash chromatography (eluent: DCM to DCM/MeOH 6:4) providing the title compound 6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (180 mg, 0.779 mmol, 67% yield).

reactant | 2-acetyl-6-methyl-1,2,4-triazine-3,5(2H,4H)-dione | 1.159 mmol, 196 mg | C(C)(=O)N1N=C(C(NC1=O)=O)C | C6H7N3O3
reactant | pyridine | 3.48 mmol, 0.281 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 1.333 mmol, 0.155 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Benzoyl chloride | 0.1 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | 1,4-Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.779 mmol, 180 mg, 67% yield | CC=1C(N(C(NN1)=O)C(=O)C1=CC=CC=C1)=O | C11H9N3O3
